US07217723B2
5-(2-Dimethylamino acetyl)thiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide
To a solution (0.6 mL) of 2.0M dimethylamine-tetrahydrofuran diluted with tetrahydrofuran (2 mL), was added dropwise 5-(2-bromoacetyl)thiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide (46 mg) in tetrahydrofuran (1 mL) at room temperature. An aqueous solution of saturated sodium bicarbonate was added, and the solution was extracted with ethyl acetate. After the organic layer was washed with saturated sodium chloride water and dried with anhydrous sodium sulfate, the residuals that were obtained upon removing the solvent by evaporation were purified by silica gel column chromatography (dichloromethane/methanol), and the title compound (16 mg) was obtained as a yellow oily substance.

reactant | dimethylamine tetrahydrofuran | 2.0M, 0.6 mL | CNC.O1CCCC1
reactant | 5-(2-bromoacetyl)thiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide | 46 mg | FC1=CC=C(C=C1)CCN(S(=O)(=O)C1=CSC(=C1)C(CBr)=O)C | C15H15BrFNO3S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 5-(2-Dimethylamino acetyl)thiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide | 16 mg | FC1=CC=C(C=C1)CCN(S(=O)(=O)C1=CSC(=C1)C(CN(C)C)=O)C | C17H21FN2O3S2
